* Z:\home\sdanthinne\Documents\307\gateTransistorModels\pc_test.asc
V1 P001 0 PULSE(0 5 1n 1n 1n 1m 2m)
V2 N001 0 5
XX1 P001 p[0] p[1] p[2] N001 n[0] n[1] n[2] s_pc

* block symbol definitions
.subckt s_pc clk P[0] P[1] P[2] Vdd N[0] N[1] N[2]
XX5 Vdd P[1] N[0] N002 s_and
XX6 Vdd P[0] N003 N004 s_and
XX7 Vdd N[1] N002 N004 s_or
XX4 Vdd N[2] N005 P001 s_or
XX11 Vdd P001 N007 N008 s_or
XX12 Vdd P[1] N006 N005 s_and
XX13 Vdd P[0] N001 N006 s_and
XX14 Vdd P[2] N003 N007 s_and
XX15 Vdd P[2] N[0] N008 s_and
XX8 P[2] N001 Vdd s_inv
XX9 P[1] N003 Vdd s_inv
XX10 P[0] N[0] Vdd s_inv
A1 N[2] 0 clk 0 0 0 P[2] 0 DFLOP
A2 N[1] 0 clk 0 0 0 P[1] 0 DFLOP
A3 N[0] 0 clk 0 0 0 P[0] 0 DFLOP
.ic V(P[0])=0 V(P[1])=0 V(P[2])=0
.ends s_pc

.subckt s_and Vdd A B Vout
M1 N001 B N002 N002 CMOSN_0.5
M2 N002 A 0 0 CMOSN_0.5
M3 N001 B Vdd Vdd CMOSP_0.5
M4 N001 A Vdd Vdd CMOSP_0.5
XX1 N001 Vout Vdd s_inv
.ends s_and

.subckt s_or Vdd Vout A B
M1 P001 A Vdd Vdd CMOSP_0.5
M2 N001 B P001 P001 CMOSP_0.5
M3 N001 A 0 0 CMOSN_0.5
M4 N001 B 0 0 CMOSN_0.5
XX1 N001 Vout Vdd s_inv
.lib DetailedModel.mod
.ends s_or

.subckt s_inv vin vout vdd
M1 vout vin vdd vdd CMOSP_0.5
M2 vout vin 0 0 CMOSN_0.5
.ends s_inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sdanthinne\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m
.lib Z:\home\sdanthinne\Documents\307\gateTransistorModels\DetailedModel.mod
.backanno
.end
